* Test ngspice control loop for Task 3
.include 45nm_bulk.txt

Vdd vdd 0 1.1
Bwl wl 0 V = (time < 1n ? 0 : (time < 1.05n ? v(vdd)*(time - 1n)/0.05n : v(vdd)))

MP1 qb q vdd vdd pmos W=0.15u L=0.045u
MN1 qb q 0 0 nmos W=0.20u L=0.045u
MP2 q qb vdd vdd pmos W=0.15u L=0.045u
MN2 q qb 0 0 nmos W=0.20u L=0.045u
MA1 bl wl q 0 nmos W=0.16u L=0.045u
MA2 blb wl qb 0 nmos W=0.16u L=0.045u

Cbl bl 0 180f
Cblb blb 0 180f

.control
let v_val = 1.1
let step = 0.05

* prepare vector arrays
let n_points = 11
let vdd_arr = unitvec(n_points)
let dv_arr = unitvec(n_points)
let qmax_arr = unitvec(n_points)

let i = 0
while v_val ge 0.599
  alter Vdd = v_val
  alter @cbl[ic] = v_val
  alter @cblb[ic] = v_val
  
  * set initial conditions
  ic v(q)=0 v(qb)=v_val v(bl)=v_val v(blb)=v_val
  
  tran 5p 4n uic
  
  let diff = v(blb) - v(bl)
  meas tran dv_meas FIND diff AT=2.0n
  meas tran qm_meas MAX v(q) FROM=1n TO=4n
  
  let vdd_arr[i] = v_val
  let dv_arr[i] = dv_meas
  let qmax_arr[i] = qm_meas
  
  let v_val = v_val - step
  let i = i + 1
end

wrdata task3_sweep.csv vdd_arr dv_arr qmax_arr
quit
.endc
.end
